datasets/10k_Mayr_OG.csv
SMILES Labelled
"CCCC[Si](CCCC)(CCCC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CCCC[Si](CCCC)(CCCC)[C:13]1=[O+:14][CH:10]([CH:20]([C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[C:51]2=[CH:52][CH:53]=[C:54](OC)[CH:56]=[CH:55]2)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C=C(C)C[C:11](C)=[CH2:10].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C=C(C)C[C+:11](C)[CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20"
"CO[C:94]1=[CH:93][CH:92]=[C:91]([C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])[CH:102]=[CH:103]1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2([C:20]3(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]3=[O:33])[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])[CH:102]=[CH:103]1 10=20;20,21=21,22;22,23=23"
"CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1.C[NH:10]C>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([NH+:10](C)C)[N-:21]1 10=20;20,21=21"
"CC[O:72][C:61]([C:10](C)=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[O:72][C:61]([C:10](C)([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)=[O:62] 10,11=10,20"
"C1C[C:20](=[O:21])C1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CC[O:72]1>>C[Si:63](C)(C)[O+:12]=[C:11]1[CH:10]([C:20]2([O-:21])CCC2)CC[O:72]1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([C:11]2=[N:10]CC[NH:12]2)C=C1.C[C:22]([CH:21]=[CH2:20])=[O:23]>>C[C:22](=[CH:21][CH2:20][N:10]1CC[NH+:12]=[C:11]1C1=CC=CC=C1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CN1C(C)(C)[NH:10][C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([NH+:10]3C(C)(C)N(C)[C:62](=[O:63])[C@@H:61]3CC3=CC=CC=C3)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10=20
"CC[O:72][C:61]([C-:10](C)[C:81](C)=[O:82])=[O:62].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CC[O:72][C:61]([C:10](C)([CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21,22;22,23=23"
"CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].N#CC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>CN1C=C[N+](C)=C1[C:22](=[CH:21][CH:20]([CH:10](Cl)[S:61](C1=CC=C(C#N)C=C1)(=[O:62])=[O:72])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10=20;20,21=21,22;22,23=23"
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.[N-:10]=[C:61]=[S:62]>>C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH:20]([N:10]=[C:61]=[S:62])[C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28 10=20
"C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1.O[C:73]1=[CH:72][C:61]2=[C:62]([NH:12][CH:11]=[CH:10]2)[CH:63]=[CH:64]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](O)[CH:64]=[CH:63]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.C1C[O:12][CH:11]=[CH:10]1>>C1C[O+:12]=[CH:11][CH:10]1[CH:20]([C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28)[C:41]12C3C4C5C1[Fe:42]45321678C2C1C6C7C28 10,11=10,20;12=11,12"
"C[N+:21](C)=[CH:20]Cl.C[N:10](C)C>>C[N+:10](C)(C)[CH:20](Cl)[N:21](C)C 10=20;20,21=21"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.CC1=CC=[C:10]([B-:11]2(C3=CC=C(N(C)C)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1>>CC1=CC=[C:10]([C:20]2([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)S1.CN(C)C1=CC=C([B-:11]2=[O+:12]C(C)(C)C(C)(C)[O:62]2)C=C1 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[C:11]1([H:10])[O:12]CC[O:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1.C[C:11]1=[O+:12]CC[O:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
